US06476235B2
(5R)-7-[2-(4-Fluorophenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrol-1-yl]-3,5-dihydroxy-heptanoic acid, N,N-dimethyl amide.
In a process analogous to Step 6 METHOD A, using alternative Ru(II)-chiral diphosphine complexes in place of RuCl2(DMF)n[(R)—Cl-MeO—BIPHEP)] as the hydrogenation catalyst, one can obtain the identical products with varying enantiomeric excess at C-5. For example, in the reduction of 7-[2-(4-fluorophenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrol-1-yl]-3,5-dioxo-heptanoic acid, ethyl ester to (5R)-7-[2-(4-fluorophenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrol-1-yl]-3,5-dihydroxy-heptanoic acid, methyl ester proceeded as follows:

reactant | 7-[2-(4-fluorophenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrol-1-yl]-3,5-dioxo-heptanoic acid, ethyl ester | FC1=CC=C(C=C1)C=1N(C(=C(C1C1=CC=CC=C1)C(NC1=CC=CC=C1)=O)C(C)C)CCC(CC(CC(=O)OCC)=O)=O | C35H35FN2O5
reactant | (5R)-7-[2-(4-fluorophenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrol-1-yl]-3,5-dihydroxy-heptanoic acid, methyl ester | FC1=CC=C(C=C1)C=1N(C(=C(C1C1=CC=CC=C1)C(NC1=CC=CC=C1)=O)C(C)C)CC[C@H](CC(CC(=O)OC)O)O | C34H37FN2O5
product | (5R)-7-[2-(4-Fluorophenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrol-1-yl]-3,5-dihydroxy-heptanoic acid, N,N-dimethyl amide | CN(C(CC(C[C@@H](CCN1C(=C(C(=C1C(C)C)C(NC1=CC=CC=C1)=O)C1=CC=CC=C1)C1=CC=C(C=C1)F)O)O)=O)C | C35H40FN3O4
